US05585394
A) 5-Chloro-1,3-dihydro-1-[2-methoxy-4-nitrobenzenesulfonyl]-3-cycloheptyl-2H-benzimidazol-2-one
600 mg of sodium hydride as a 60% dispersion in oil were added in portions, with stirring, to a solution of 3 g of 5-chloro-3-cycloheptyl-1,3-dihydro-2H- benzimidazol-2-one in 30 ml of THF. 3 g of 4-nitro-2- methoxybenzenesulfonyl chloride were then added and the reaction mixture was stirred for 18 hours. The reaction mixture was then poured into a water+ ice mixture, extracted with ethyl acetate and washed with water and the organic phase was dried over sodium sulfate and concentrated to dryness. 3.5 g of the expected product were obtained by crystallization from an iso ether/AcOEt mixture (60/40; v/v). M.p.=193° C.

reactant | sodium hydride | 600 mg | [H-].[Na+]
reactant | 5-chloro-3-cycloheptyl-1,3-dihydro-2H- benzimidazol-2-one | 3 g | ClC1=CC2=C(NC(N2C2CCCCCC2)=O)C=C1 | C14H17ClN2O
reactant | 4-nitro-2- methoxybenzenesulfonyl chloride | 3 g | [N+](=O)([O-])C1=CC(=C(C=C1)S(=O)(=O)Cl)OC | C7H6ClNO5S
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-Chloro-1,3-dihydro-1-[2-methoxy-4-nitrobenzenesulfonyl]-3-cycloheptyl-2H-benzimidazol-2-one | 3.5 g | ClC1=CC2=C(N(C(N2C2CCCCCC2)=O)S(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])OC)C=C1 | C21H22ClN3O6S
